US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalen-1-yl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed N,N-dimethylformamide (10 mL), 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylic acid (70 mg, 0.14 mmol, 1.00 equiv), HATU (74 mg, 0.19 mmol, 4.00 equiv), DIEA (218 mg, 1.69 mmol, 4.00 equiv), 3-(3,3,3-trifluoropropyl)imidazolidin-4-one (31 mg, 0.17 mmol, 1.00 equiv). The resulting solution was stirred for 2 h at room temperature. The crude product was purified by Prep-HPLC. This resulted in 32 mg (34%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalen-1-yl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one as a light brown solid. (ES, m/z): 693 [M+41]+; (300 MHz, CD3OD, ppm): δ 8.98-8.95 (m, 1H), 8.04-7.96 (m, 3H), 7.92-7.85 (m, 2H), 7.74-7.65 (m, 3H), 5.26 (s, 1H), 4.88-4.52 (m, 2H), 4.36-4.29 (m, 2H), 3.82 (s, 1H), 3.73 (t, J=6.6 Hz, 1H), 3.50 (t, J=7.5 Hz, 1H), 2.68-2.60 (m, 1H), 2.43-2.37 (m, 1H).

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalene-1-carboxylic acid | 0.14 mmol, 70 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)O)C(F)(F)F | C22H12ClF6NO3
reactant | HATU | 0.19 mmol, 74 mg, 4.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.69 mmol, 218 mg, 4.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(3,3,3-trifluoropropyl)imidazolidin-4-one | 0.17 mmol, 31 mg, 1.00 equiv | FC(CCN1CNCC1=O)(F)F | C6H9F3N2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]naphthalen-1-yl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)N1CN(C(C1)=O)CCC(F)(F)F)C(F)(F)F | C28H19ClF9N3O3
